US07635713B2
Intermediate 21.1: 1-ethylcyclobutanecarboxylic acid
The title compound was prepared according to the procedure described for intermediate 2.1 from cyclobutanecarboxylic acid and ethylbromide.

reactant | cyclobutanecarboxylic acid | C1(CCC1)C(=O)O | C5H8O2
reactant | ethylbromide | C(C)Br | C2H5Br
product | 1-ethylcyclobutanecarboxylic acid | C(C)C1(CCC1)C(=O)O | C7H12O2
